US06596726B1
4-Chlorobenzo[g]quinazoline (214 mg, 1.0 mmol), 3-bromoaniline (213 mg, 1.25 mmol) and NEt3 (202 mg, 2.0 mmol) in stirred methoxyethanol (5 mL) were heated under N2 at 95° C. for 6 h. The volatiles were removed under reduced pressure and the residual solid was triturated with MeOH. The solid was recrystallized at 0° C. from an EtOHt dilute hydrochloric acid mixture (1:4, 0.05 M acid, 50 mL) after celite filtration to give 4-(3-bromoanilino)-benzo[g]quinazoline hydrochloride (71 mg, 18%) as a yellow-green solid. 1H NMR (DMSO) δ14.0 (1H brs), 9.65 (1H, s), 9.01 (1H, s), 8.47 (1H, s), 8.29 (1H, d, J=8.4 Hz), 8.24 (1H, d, J=8.4 Hz), 8.18 (1H, slbrs), 7.9-7.82 (2H, m), 7.78 (1H, t, J=7.5 Hz), 7.58 (1H, d, J=8 Hz), 7.51 (1H, t, J=8 Hz).

reactant | 4-Chlorobenzo[g]quinazoline | 1.0 mmol, 214 mg | ClC1=NC=NC2=CC3=C(C=C12)C=CC=C3 | C12H7ClN2
reactant | 3-bromoaniline | 1.25 mmol, 213 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | NEt3 | 2.0 mmol, 202 mg | CCN(CC)CC | C6H15N
solvent | methoxyethanol | 5 mL | COC(C)O | C3H8O2
product | 4-(3-bromoanilino)-benzo[g]quinazoline hydrochloride | 71 mg, 18% | Cl.BrC=1C=C(NC2=NC=NC3=CC4=C(C=C23)C=CC=C4)C=CC1 | InChI=1S/C18H12BrN3.ClH/c19-14-6-3-7-15(10-14)22-18-16-8-12-4-1-2-5-13(12)9-17(16)20-11-21-18;/h1-11H,(H,20,21,22);1H
